Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Advair Diskus / Flonase / Percocet / Flovent Diskus / 
Nexium Packet
 
Attending: ___
 
Chief Complaint:
Weakness, fatigue, poor PO intake.
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
___ with h/o metastatic colon CA to the liver and lung, not 
currently on treatment, who presents with two weeks of weakness 
and fatigue.  She has otherwise been feeling well.  No chest 
pain, dyspnea, abdominal pain, nausea, vomiting, diarrhea, or 
black/bloody stools. No dysuria. Family has noticed some 
jaundiced sclerae recently.
 
In the ED, initial VS were notable for hypotension.  She was 
given 3L NS with improvement in her hypotension.  While in the 
ED she also triggered for tachycardia to 130.  The episodes were 
transient and not captured on EKG, but reportedly were narrow 
complex, regular and had a sudden onset on telemetry.  She was 
asymptomatic during the episodes.  She was given zofran, 
lorazepam and KCl while in the ED.  CTA was ordered to r/o PE 
given tachycardia and hx of malignancy, + ddimer and was 
negative.  Head CT showed no e/o metastatic disease.  RUQ US 
showed little change with multiple liver mets and no change in 
the caliber of the CBD.  CXR showed diffuse pulmonary mets.  
Labs were notable for a K of 3.0, tbili of 25.8, transaminitis 
and elevated alk phos as well as a gap acidosis.

On arrival to the MICU, pt has no complaints.  She states that 
she has not urinated since arrival and is refusing a foley. 

 
Past Medical History:
status post laproscopic cholecystectomy
obesity
asthma
bursitis
iron deficiency anemia
Grave's disease

Oncologic history (per ___:  
- Ms. ___ is a ___ female who underwent her 
first colonoscopy, which was also done for iron deficiency 
anemia, on which was found a large mass at the hepatic flexure.  

The pathology showed at least high-grade dysplasia.  
- She presented to Dr. ___ for evaluation on 
/___ and on ___ was taken for a laparoscopic right 
colectomy. On this, she was found to have a T3 N2b colon 
adenocarcinoma. Of note, it is KRAS mutation positive.  
- CT Torso performed on ___ showed metastatic disease to the 
liver and lungs.  
- She commenced FOLFOX on ___.  
- She developed darkening of her gums and tongue as well as cold 

sensitivity without numbness leading to cessation of Oxaliplatin 

therapy.  
- She received one dose of FOLFIRI on ___  
- She started on FLOX on ___  
-She had progression of her disease on a CT dated ___.  
- She started on irinotecan at a three weeks schedule with her 
first dose on ___.  
- She was changed to a weekly Irinotecan regimen and Avastin was 
added on ___  

- ___ started Regorafenib at 80 mg daily on days 1 
through 21 of a 28-day cycle.
- ___ stopped regorafenib due to worsening LFTs with 
plan to start capecitabine as only option for therapy (not 
candidate for other phase 1 trials given elevated LFTs)
 
Social History:
___
Family History:
Her father died of prostate cancer.  Her mother has a history of 
polyps, but is otherwise healthy, and she denied any health 
problems of her siblings.
 
Physical Exam:
Admission PE:
Vitals: T:98.4 BP:102/68 P:92 R:26 O2:96% RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera icteric, MMM, oropharynx clear, EOMI, PERRL  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema, no calf tenderness  
Neuro: aaox3, CNII-XII intact, ___ strength upper/lower 
extremities, grossly normal sensation, 2+ reflexes bilaterally, 
gait deferred, finger-to-nose intact  

DISCHARGE PHYSICAL EXAM:
Patient expired.
 
Pertinent Results:
Admission Labs:
___ 07:45PM   LACTATE-4.3*
___ 07:40PM   GLUCOSE-111* UREA N-20 CREAT-0.9 SODIUM-135 
POTASSIUM-3.0* CHLORIDE-87* TOTAL CO2-29 ANION GAP-22*
___ 07:40PM   ALT(SGPT)-84* AST(SGOT)-332* CK(CPK)-202* ALK 
PHOS-636* TOT BILI-25.8* DIR BILI-17.2* INDIR BIL-8.6
___ 07:40PM   LIPASE-12
___ 07:40PM   CK-MB-2 cTropnT-<0.01
___ 07:40PM   ALBUMIN-3.0* CALCIUM-9.6 PHOSPHATE-2.5* 
MAGNESIUM-2.8*
___ 07:40PM   WBC-8.4 RBC-4.68 HGB-14.2 HCT-41.3 MCV-88 
MCH-30.2 MCHC-34.3 RDW-15.6*
___ 07:40PM   NEUTS-72* BANDS-8* LYMPHS-16* MONOS-3 EOS-1 
BASOS-0 ___ MYELOS-0 NUC RBCS-1*
___ 07:40PM   HYPOCHROM-NORMAL ANISOCYT-OCCASIONAL 
POIKILOCY-1+ MACROCYT-OCCASIONAL MICROCYT-NORMAL POLYCHROM-1+ 
TARGET-1+
___ 07:40PM   PLT SMR-UNABLE TO  PLT COUNT-ERROR
___ 07:40PM   ___ PTT-34.7 ___
.
>> IMAGING:
===========
CT head: Multiple calcific foci are noted throughout the brain 
and without surrounding edema, most likely representing dural 
calcifications.  However, CT is low in sensitivity for 
evaluation for masses and if clinical suspicion is high, MRI is 
the recommended study of choice. 
.
RUQ U/S: Little change in comparison to prior study with 
heterogeneous echotexture of the liver consistent with known 
metastatic disease. The common bile duct remains stable at 9 mm. 

.
CTA chest:
1. Limited study due to contrast timing demonstrates no large 
central pulmonary embolus. 
2. Innumerable pulmonary metastases throughout bilateral lungs 
have increased in soft tissue density as well as in number. 
These findings are suggestive of worsening metastatic disease. 
3. The visualized portion of the upper abdomen again 
demonstrates numerous lesions throughout the liver. There is, 
however, evidence of new perihepatic small ascites suggestive of 
worsening metastatic disease. 

___
CXR
IMPRESSION:   
Diffuse pulmonary metastases.  No acute cardiopulmonary 
abnormality otherwise demonstrated. 

___ MRI ABDOMEN
IMPRESSION: 
1.  Limited examination as described above.  Innumerable 
metastatic lesions throughout all hepatic lobes appear 
progressed since ___. 
2.  Interval progression of multifocal intrahepatic biliary 
ductal dilatation which suggests a more diffuse process. 
3.  Moderate perihepatic and perisplenic ascites is also new 
since ___. 

EKGs
====
___
Sinus rhythm. Leftward axis. Left ventricular hypertrophy. 
Non-specific 
repolarization abnormalities. Compared to the previous tracing 
of ___ the findings are similar but repolarization 
abnormalities are slightly more prominent and may be related to 
left ventricular hypertrophy or ischemia. 
Rate PR QRS QT/QTc P QRS T 
93 170 94 388/445 28 -24 6 
 
___
Sinus tachycardia. Non-specific repolarization abnormalities. 
Compared to the previous tracing the rate has increased. Voltage 
criteria for left ventricular hypertrophy are no longer seen. 
Repolarization abnormalities are similar.  
Rate PR QRS QT/QTc P QRS T 
128 186 98 292/411 46 -14 81 
 
___
Sinus tachycardia. Non-specific repolarization abnormalities. 
Compared to the previous tracing the contour of ST segment 
depression is slightly changed. Clinical correlation is 
suggested.  
Rate PR QRS QT/QTc P QRS T 
133 154 94 304/431 45 -14 63 
 
Brief Hospital Course:
>> BRIEF HOSPITAL COURSE
========================
___ yo female with metastatic colon CA to liver and lung who 
presented to the ED with fatigue, paroxysmal SVT, hypokalemia 
and worsening hyperbilirubinemia, briefly admitted to the ICU 
with tachycardia, now transferred to floor for further 
monitoring, work up of hyperbilirubinemia, potassium repletion 
and goals of care discussions. Given her hyperbilirubinemia, the 
Hepatology team was consulted and recommended MRI, which showed 
innumerable metastases to the liver. Her clinical status 
continued to worsen due to hepatic encephalopathy, a family 
meeting was held, and she was made CMO. Her hepatic 
encephalopathy progressed, and she passed away ___.

>> ACTIVE ISSUES:
=================
#) Altered mental status in the setting of liver dysfunction: 
Mental status was steadily worsening throughout hospital course. 
Given extremely elevated bilirubin and worsening innumerable 
hepatic metastatic lesions, this is most likely due to hepatic 
encephalopathy. CBD was normal in caliber on recent ultrasound. 
Hepatology was consulted and recommended MR imaging to evaluate 
for reversible causes of hepatic dysfunction. No revsible causes 
were found (evidence of intrahepatic dilatation). She did not 
respond considerably to rifaximin or lactulose. Given her 
worsening mental status, a family meeting was held and her code 
status was changed to CMO. She continued to have worsening 
mental status as her hospital course progressed, and she passed 
away ___.

#) Metastatic colon cancer: She has metastatic disease with 
significant worsening of bilirubin in the last 2 weeks, likely 
due to progression of liver metastases. Per oncology notes, she 
is not eligible for further clinical trials but she is 
interested in pursuing further care, unclear how much she 
understands regarding her prognosis. She was taking regorafenib 
briefly as outpatient, but stopped d/t transaminitis. 
Capecitabine therapy was the only therapy she was eligible for, 
and the plan was to slowly transition her to more comfort care 
measures. She passed away ___, likely due to 'innumerable' 
hepatic lesions and worsening liver disease.

>> TRANSITIONAL ISSUES
======================
- Emergency contact: ___ (___) daughter and HCP.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob, wheezing 
2. Citalopram 20 mg PO DAILY 
3. EpiPen *NF* (EPINEPHrine) 0.3 mg/0.3 mL Injection prn 
allergic reaction 
4. Hydrochlorothiazide 12.5 mg PO DAILY 
Hold for SBP<100 
5. Lorazepam 0.5 mg PO Q4H:PRN anxiety 
6. Nasonex *NF* (mometasone) 50 mcg/actuation NU daily 
7. Montelukast Sodium 10 mg PO DAILY 
8. Omeprazole 40 mg PO DAILY 
9. Ondansetron 8 mg PO Q8H:PRN n/v 
10. Potassium Chloride 20 mEq PO DAILY Duration: 24 Hours 
11. Prochlorperazine 10 mg PO Q6H:PRN n/v 
12. regorafenib *NF* 40 mg Oral daily 
160 mg days ___ of each 28 day cycle 
13. Calcium Carbonate 500 mg PO DAILY 
14. Vitamin D ___ UNIT PO DAILY 
15. Docusate Sodium 100 mg PO DAILY:PRN constipation 
16. Ferrous Sulfate 325 mg PO DAILY 
17. Loperamide 2 mg PO QID:PRN diarrhea 
18. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
Patient expired.
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Patient expired.
 
Discharge Condition:
Patient expired.
 
Discharge Instructions:
Patient expired.
 
Followup Instructions:
___